US05708008
5-(4-trifluoromethylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 29.0 mg (0.15 mMol) 4-trifluoromethylbenzoic acid, 11.6 mg (58%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 4-trifluoromethylbenzoic acid | 0.15 mMol, 29.0 mg | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
product | 5-(4-trifluoromethylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 11.6 mg, 58% | FC(C1=CC=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=C1)(F)F | C22H22F3N3O
